US09303020B2
Preparation of 2-(4-fluorophenyl)-5-isopropoxy-6-nitrobenzofuran-3-carboxylic acid.
An aqueous solution of sodium hydroxide (7.74 mL, 15.48 mmol, 2.0 M) was added to a mixture of ethyl 2-(4-fluorophenyl)-5-isopropoxy-6-nitrobenzofuran-3-carboxylate (1.5 g, 3.87 mmol) in a THF (50 mL)/Water (10 mL) mixture at room temperature. The reaction mixture was heated to 50° C. and maintained at the same temperature overnight. The reaction mixture was then concentrated to remove the solvent. The residue was diluted with water, acidified with 1.5 N HCl, stirred for 5 min and filtered. The solid was dried under suction to obtained title compound as a white solid. Yield: 1.35 g, (97%). 1H NMR (400 MHz, DMSO-d6) δ ppm: 8.35 (s, 1H) 8.02-8.16 (m, 2H) 7.78 (s, 1H) 7.33-7.49 (m, 2H) 4.69-4.85 (m, 1H) 1.27-1.40 (m, 6H).

reactant | sodium hydroxide | 15.48 mmol, 2.0 M, 7.74 mL | [OH-].[Na+]
reactant | ethyl 2-(4-fluorophenyl)-5-isopropoxy-6-nitrobenzofuran-3-carboxylate | 3.87 mmol, 1.5 g | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)OCC)C=C(C(=C2)[N+](=O)[O-])OC(C)C | C20H18FNO6
reactant | THF | 50 mL | C1CCOC1 | C4H8O
solvent | Water | 10 mL | O | H2O
product | 2-(4-fluorophenyl)-5-isopropoxy-6-nitrobenzofuran-3-carboxylic acid | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)O)C=C(C(=C2)[N+](=O)[O-])OC(C)C | C18H14FNO6
